US05298511
Using an analogous procedure to that described in Example 1, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with ethyl 2-allyl-2-(3-hydroxyphenyl)butyrate to give ethyl 2-allyl-2-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]butyrate in 25% yield as a gum.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | ethyl 2-allyl-2-(3-hydroxyphenyl)butyrate | C(C=C)C(C(=O)OCC)(CC)C1=CC(=CC=C1)O | C15H20O3
product | ethyl 2-allyl-2-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]butyrate | 25% yield | C(C=C)C(C(=O)OCC)(CC)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C26H29NO4
